US05508408
Example 29: 4-[3-(7-fluoro-2-quinolinylmethoxy)phenylamino]-2-ethyl-2-methyl-4-oxobutanoic acid
The title compound is prepared analogously to the compound described in Example 20 from 2-ethyl-2-methylsuccinic acid anhydride and 3-(7-fluoro-2-quinolinylmethoxy)aniline; colourless crystals of m.p. 179°-180°.

reactant | 2-ethyl-2-methylsuccinic acid anhydride | C(C)C1(C(=O)OC(C1)=O)C | C7H10O3
reactant | 3-(7-fluoro-2-quinolinylmethoxy)aniline | FC1=CC=C2C=CC(=NC2=C1)COC=1C=C(N)C=CC1 | C16H13FN2O
product | 4-[3-(7-fluoro-2-quinolinylmethoxy)phenylamino]-2-ethyl-2-methyl-4-oxobutanoic acid | FC1=CC=C2C=CC(=NC2=C1)COC=1C=C(C=CC1)NC(CC(C(=O)O)(C)CC)=O | C23H23FN2O4
